US04937332
To a solution of 34.4 g (64.5 mM) of 4-methoxybenzyl 7β-phenylacetamido-3-methanesulfonyloxy-3-cephem-4-carboxylate in 100 ml of N,N-dimethylformamide were added at -30° C. a solution of 5.68 g (71.0 mM) of 70% sodium hydrosulfide in 50 ml of N,N-dimethylformamide and 12.5 g (96.9 mM) of diisopropylethylamine, and the mixture was stirred for 30 minutes. After the reaction, 500 ml of water was added and the mixture was washed with 300 ml of ethyl acetate. The aqueous layer was adjusted to pH 2 to 3 with 0.5% hydrochloric acid and extracted with 1 l of ethyl acetate, and the extract was washed with a saturated aqueous sodium chloride solution (300 ml×3) and dried over anhydrous magnesium sulfate. The solvent was evaporate and n-hexane was added to the residue for powdering to give 22.0 g of 4-methoxyphenyl 7β-phenylacetamido-3-mercapto-3-cephem-4 -carboxylate.

reactant | 4-methoxybenzyl 7β-phenylacetamido-3-methanesulfonyloxy-3-cephem-4-carboxylate | 64.5 mM, 34.4 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H24N2O8S2
reactant | sodium hydrosulfide | 71.0 mM, 5.68 g | [SH-].[Na+]
reactant | water | 500 ml | O | H2O
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | diisopropylethylamine | 96.9 mM, 12.5 g | C(C)(C)N(CC)C(C)C | C8H19N
product | 4-methoxyphenyl 7β-phenylacetamido-3-mercapto-3-cephem-4 -carboxylate | 22.0 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)S)C(=O)OC2=CC=C(C=C2)OC)C1=O | C22H20N2O5S2
